Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm in shock that I'm here."
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
This is a ___ woman with a past psychiatric history of 
depression and one prior suicide attempt by medication overdose 
at age ___, and no significant past medical history, who was 
brought to the ED by EMS after patient called ___ s/p 
intentional overdose on 75mg of cyclobenzaprine and 1500mg of 
ibuprofen in the setting of alcohol use. Admitted to the 
inpatient psychiatry unit for diagnostic clarification, 
stabilization, treatment, and establishment of care with 
outpatient treaters.
.
On admission interview, pt confirms much of the history detailed 
in the the emergency room. She reports that she works as a 
___. She was at work, then went to the bar and 
had 2 drinks with her friends. She then went home, and decided 
to take a handful of cyclobenzaprine and ibuprofen - she emptied 
the bottles into her hand, which she said had little pills 
remaining
but she was not sure of exactly how many she ingested. She 
explains, "I knew it wouldn't kill me, but I also knew it was 
too much." She vehemently denies that this was a suicide 
attempt. Rather, she states that she "wanted to stop my mind 
from racing" and wanted "to relax" and go to sleep. She denies 
that this was a
cry for help. She denied feeling depressed leading up to the 
ingestion. She reports that she saw a few coworkers who were 
"miserable with their jobs." She reports that she enjoys her 
work, but has found it somewhat more stressful lately, as she is 
working increased hours. 
. 
After the ingestion, pt reports that she woke up early in the 
morning "and I felt really sick." She fell back asleep again, 
and woke up around 1pm. She then called a friend of hers who is 
a ___ and informed this friend of the ingestion, as pt was 
wondering if she should seek medical attention. Her friend told 
her to hang up and call ___ immediately. Pt then called ___ and
came to the ED.  Upon reflection, pt is very happy to be alive, 
and states "I know I wouldn't do that again." She reports that 
she is "annoyed" that she did it. She again reiterates that she 
"just wanted to sleep," and is equally "surprised" that she did 
it. She denies any history of impulsivity, denies any
self-injurious behaviors. Pt reports that her mood has been 
"fine." She reports she sleeps well at night, with good daytime 
energy. She reports her appetite is intact. She denies SI, 
including passive SI. 
. 
On psych ROS, pt denies HI, denies increase in irritability. 
Denies decreased need for sleep, racing thoughts, impulsivity, 
grandiosity, increase in goal-oriented behaviors. Denies AVH, 
denies paranoia, denies IOR. Denies increase in anxiety, denies 
panic attacks. 
. 
Patient reports that she is settling into the unit, but 
continues to feel "surprised" and "shocked" that she is here. 
She feels safe on the unit. She is hoping to be discharged home 
soon, and asked about the process for a 3-day notice, which was 
discussed.

 
Past Medical History:
Past psychiatric history:
Diagnoses: depression
SAs/Hospitalizations: once at ___ following a suicide attempt
where she 6 tabs of Advil. She states, "I think it was a cry for
attention," noting that her younger sister was in the midst of 
an eating disorder. Pt reports she was hospitalized "for like a 
day or so" and was then discharged.
Treaters: None. Was engaged in therapy for ___ years on/off
following her hospitalization at ___.
Self-injurious behaviors: denies
Medications: trial of a medication following her SA as a
teenager, thinks the name ___ sounds familiar but she is not
sure
Harm to others/violence: denies
Access to weapons: denies owning or having any access to guns or
weapons
. 
Past medical history:
Denies
. 
Reports history of one concussion during college from playing
rugby. Denies history of seizures. 

 
Social History:
Substance use history:
Alcohol: drinks ___, will have ___ drinks per episode.
Denies any history of withdrawal symptoms or problems with
alcohol use.
Tobacco: denies
Marijuana: has tried it "occasionally" in the past, does not use 
regularly
Denies any illicit drug use.
.
Forensic History:
___
Personal and Social History: ___
Family History:
Mental illness: younger sister with anxiety, had an eating 
disorder when she was younger but pt thinks she has recovered 
from this
Suicide attempts: denies
substance use disorders: denies

 
Physical Exam:
Physical Examination

Gen: No acute distress, sitting comfortably.
HEENT: Pupils equal and reactive to light.
Ht: RRR, no MRG
Lungs: CTAB, symmetric chest wall motion, breathing comfortably.

Appearance: Patient is a ___ female who appears stated
age. She has dark blond hair in a ponytail, blue eyes, and
chipped fingernail ___. She is wearing a hospital gown.
Behavior: Patient is cooperative with interview but not
forthcoming. Denies all psychiatric symptoms or emotions. 
Limited
eye contact.
Mood: "I'm fine, I don't need to be here."
Affect: Constricted, slightly irritable.
Thought process: Linear, logical, goal-oriented.  No LOA.  
Thought Content: Denies SI. Denies HI. Denies AH or VH. Denies
paranoia.  
Judgment: Fair. Does not want to be in the hospital.
Insight: Limited. Unable to articulate having emptions or
anything distressing about her life.
Cognition:
Attends to interview, gives coherent narrative with good recall
of past events. 
Speech: Regular rate, rhythm, tone, and volume. Decreased
prosody.
Language: Fluent ___

Neuro-
Cranial Nerves-
     I:
     II: Pupils symmetrical and equally reactive to light.
     III, IV, VI: Extra-ocular muscles intact. Nystagmus to the 
right and upward-beating.
     VII: Face symmetric on eye closure, raised eyebrows, and
smile.
     VIII: Hearing intact to conversation
     XI: 
     X, IX: Palate raised symmetrically
     XII: tongue midline

 
Pertinent Results:
___ 07:34PM URINE  HOURS-RANDOM
___ 07:34PM URINE  UCG-NEGATIVE
___ 07:34PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-POS* oxycodn-NEG mthdone-NEG
___ 07:34PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 07:34PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG*
___ 07:34PM URINE  RBC-1 WBC-3 BACTERIA-FEW* YEAST-NONE 
EPI-20
___ 07:34PM URINE  MUCOUS-OCC*
___ 03:31PM   LACTATE-1.9
___ 03:14PM   ___ PTT-29.9 ___
___ 02:00PM   GLUCOSE-102* UREA N-12 CREAT-1.0 SODIUM-143 
POTASSIUM-4.5 CHLORIDE-107 TOTAL CO2-24 ANION GAP-12
___ 02:00PM   estGFR-Using this
___ 02:00PM   ALT(SGPT)-15 AST(SGOT)-20 ALK PHOS-50 TOT 
BILI-0.5
___ 02:00PM   ALBUMIN-4.2
___ 02:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 02:00PM   WBC-7.0 RBC-3.94 HGB-12.6 HCT-37.0 MCV-94 
MCH-32.0 MCHC-34.1 RDW-11.9 RDWSD-41.3
___ 02:00PM   NEUTS-67.6 ___ MONOS-9.0 EOS-1.0 
BASOS-0.9 IM ___ AbsNeut-4.72 AbsLymp-1.48 AbsMono-0.63 
AbsEos-0.07 AbsBaso-0.06
___ 02:00PM   PLT COUNT-242
 
Brief Hospital Course:
This is a ___ woman with a past psychiatric history of 
depression and one prior suicide attempt by medication overdose 
at age ___, and no significant past medical history, who was 
brought to the ED by EMS after patient called ___ s/p 
intentional overdose on 75mg of cyclobenzaprine and 1500mg of 
ibuprofen in the setting of alcohol use. She has been admitted 
to the inpatient psychiatry unit for diagnostic clarification, 
stabilization, treatment, and establishment of care with 
outpatient treaters. On interview, pt expresses disbelief that 
she is on the inpatient psych unit, states she is "shocked" that 
she ingested the medications. She denies any recent depressed 
mood, although she does report some increase in stress at her 
job. She reports her mood is "fine," denies any neurovegetative 
symptoms of depression. She has minimal insight as to why the 
ingestion occurs, vehemently denies this was a suicide attempt, 
rather states it was a way to "relax." She describes the 
ingestion as impulsive, stating it was not planned and she took 
it in the context of alcohol, s/p ___ drinks. She states that 
she would "never" do this again. Mental status exam on admission 
notable for a thin young woman in no acute distress, affect is 
anxious and constricted, neurocognitive exam is unremarkable. 
History also notable for one ingestion at age ___. Urine tox 
screen is positive for amphetamines, and pt denied using any 
stimulants.  At this time, clinical presentation is concerning 
for a possible unspecified depressive disorder. Differential 
could alternatively rule-out an adjustment disorder. Her history 
of alcohol use is also concerning, as this ingestion was in the 
context of alcohol. Further, differential should consider 
possible limited coping skills, particularly given level of 
impulsivity.

We had telephone conference call with pt's mother (Ms. ___ 
___ ___, pt and inpatient team. Pt and mother had 
opportunity to share their concern. Team shared with pt and 
mother recommendations for treatment: individual therapy, 
psychopharm management and addressing EtOH use were recommended. 
Psychoeducation was provided about negative effect of EtOH on 
mood, impulsivity, quality of sleep and general health.

On the day of discharge, Ms. ___ reported:"I am ready for 
discharge". She shared that her mother will be picking her up. 
Pt reported that her mood is "OK". Her affect was friendly, 
reactive, appropriate to topics of conversation. She clearly 
denied S/H/I. She shared about positive plans for future. She 
and her mother are planning to stay in ___ this evening.
Ms. ___ didn't have any physical complains. She denied 
pain/N/V/D/C.

.
#. Legal/Safety: patient admitted to ___ on a ___, upon admission she declined to sign a CV. Given good 
behavioral control and consistent denial of SI or thoughts of 
self harm, she did not meet criteria to file a section 7&8b, and 
was discharged upon expiration of her ___. Of note, 
patient maintained her safety throughout her hospitalization on 
15 minute checks and did not require physical or chemical 
restraints. 

.
#. Depression/Anxiety: 
- Patient was compliant with her treatment team and participated 
appropriately in her care. 
- After discussion of hte risks and benefits, patient was 
started on Celexa 10 mg po daily, which she tolerated well 
without complaints of side effects. 

#. Alcohol use: denies abuse/misuse, with no signs or symptoms 
of withdrawal during this hospitalization 

#. Medical: no acute medical issues during this hospitalizaton 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Citalopram 10 mg PO DAILY depression  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder
Anxiety disorder

 
Discharge Condition:
ambulatory status: independently ambulating

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___